US07442713B2
b) 2-(4-Fluorophenyl)-1-pyridin-4-ylethanone
2-(4-Fluorophenyl)-3-hydroxy-3-pyridin-4-ylacrylonitrile (0.15 mol/40.6 g) was dissolved in 290 ml of 48% HBr. With vigorous stirring, the reaction mixture was heated under reflux for 24 h. 500 g of ice were then added to the reaction mixture, and the mixture was stirred for another 2 h. After addition of a further 300 g of ice and neutralization of the mixture to pH 7 using concentrated NH3 and a further 60 min of stirring, the title compound was obtained as an ochre-brown precipitate. The precipitate was filtered off, washed with H2O and dried over P2O5 under reduced pressure. Yield: 16.1 g (50%)

reactant | 2-(4-Fluorophenyl)-3-hydroxy-3-pyridin-4-ylacrylonitrile | 0.15 mol, 40.6 g | FC1=CC=C(C=C1)C(C#N)=C(C1=CC=NC=C1)O | C14H9FN2O
reactant | NH3 | N | H3N
solvent | HBr | 290 ml | Br | BrH
product | 2-(4-Fluorophenyl)-1-pyridin-4-ylethanone | FC1=CC=C(C=C1)CC(=O)C1=CC=NC=C1 | C13H10FNO
